US07534785B2
5.47 g of 5-(4-chlorophenyl)-3-(3-nitrobenzyl)-3,6-dihydro-1,3,4-thiadiazin-2-one is dissolved in 100 ml of THF, and 1.3 g of Raney nickel is subsequently added. Hydrogen is subsequently passed in until starting material is no longer detectable. For work-up, the catalyst is filtered off, washed with THF, and the filtrate is evaporated to dryness and recrystallised from dichloromethane/diethyl ether, giving 4.6 g (94%) of 3-(3-aminobenzyl)-5-(4-chlorophenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one.

reactant | 5-(4-chlorophenyl)-3-(3-nitrobenzyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | 5.47 g | ClC1=CC=C(C=C1)C1=NN(C(SC1)=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C16H12ClN3O3S
reactant | Hydrogen | [H][H] | H2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 1.3 g | [Ni] | Ni
product | 3-(3-aminobenzyl)-5-(4-chlorophenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | 4.6 g, 94% | NC=1C=C(CN2C(SCC(=N2)C2=CC=C(C=C2)Cl)=O)C=CC1 | C16H14ClN3OS
